US06162809
14. 3-Methyl-2-[(4-pyridinylthio)methyl]-4-[5-(4-pyridinyl)-1,5-dithiapentyl]pyridine
According to the procedure indicated in Example 5, reaction of 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine with 4-mercaptopyridine and sodium hydroxide solution yields the title compound; m.p. 116-118° C.; Yield 69% of theory.

reactant | 4-(3-chloropropylthio)-3-methyl-2-[(4-pyridinylthio)methyl]pyridine | ClCCCSC1=C(C(=NC=C1)CSC1=CC=NC=C1)C | C15H17ClN2S2
reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-Methyl-2-[(4-pyridinylthio)methyl]-4-[5-(4-pyridinyl)-1,5-dithiapentyl]pyridine | Yield 69% | CC=1C(=NC=CC1SCCCSC1=CC=NC=C1)CSC1=CC=NC=C1 | C20H21N3S3
